US04051248
8-[(7-Fluoro-1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one
5.0 g of 2-[(dimethylamino)methyl]-7-fluoro-3,4-dihydro-1(2H)-naphthalenone hydrochloride (1:1) and 5.85 g of 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one are suspended in absolute ehtanol (55 ml) and stirred overnight while a slow stream of nitrogen is bubbled through. The solid that forms is filtered off and washed with ether to give the title compound (7.7 g), melting point 162°-165° C.

reactant | 2-[(dimethylamino)methyl]-7-fluoro-3,4-dihydro-1(2H)-naphthalenone hydrochloride | 5.0 g | Cl.CN(C)CC1C(C2=CC(=CC=C2CC1)F)=O
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 5.85 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | 8-[(7-Fluoro-1,2,3,4-tetrahydro-1-oxo-2-naphthalenyl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 7.7 g | FC1=CC=C2CCC(C(C2=C1)=O)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C24H26FN3O2
